US07566712B2
BB. 4-(3-chloro-4-fluorophenyl)-6-((S)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)-2-((S)-2-methylpyrrolidin-1-yl)pyrimidine
Dissolve 2-chloro-4-(3-chloro-4-fluorophenyl)-6-((S)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)pyrimidine (45 mg, 0.1 mmol) and (S)-2-methylpyrrolidine hydrobromide (0.2 mmol, prepared essentially as described by Nijhuis et. al. (1989) J. Org. Chem. 54:209-216) in CH3CN; 2.0 mL) under nitrogen atmosphere. Add K2CO3 (55 mg, 0.4 mmol) and heat at 80° C. for 20 hours. Concentrate under vacuum, dilute with water (5.0 mL), extract with EtOAc (3×3 mL) and dry with MgSO4. Filter, and concentrate under vacuum to afford crude product. Purify by flash column chromatography using 10-20% EtOAc/hexane to afford the title product as viscous oil. NMR (CDCl3) δ1.31 (3H, d, J=2.1), 1.41(3H, d, J=2.3), 1.62 (2H, m), 1.93 (3H, m), 3.00 (2H, m), 3.35 (1H, t), 3.65 (2H, m), 3.81(2H, m), 4.35 (1H, m), 4.68 (1H, bs), 6.22 (1H, s), 6.87 (1H, m), 7.16 (1H, t), 7.61 (1H, m), 7.88 (1H, m), 8.06 (1H, m), 8.20 (1H, m). Mass spec m/z=501.22.

reactant | 2-chloro-4-(3-chloro-4-fluorophenyl)-6-((S)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)pyrimidine | 0.1 mmol, 45 mg | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1[C@H](CN(CC1)C1=NC=CC=C1Cl)C | C20H17Cl3FN5
reactant | (S)-2-methylpyrrolidine hydrobromide | Br.C[C@@H]1NCCC1
reactant | K2CO3 | 0.4 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | CC#N | C2H3N
product | 4-(3-chloro-4-fluorophenyl)-6-((S)-4-(3-chloropyridin-2-yl)-2-methylpiperazin-1-yl)-2-((S)-2-methylpyrrolidin-1-yl)pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1[C@H](CN(CC1)C1=NC=CC=C1Cl)C)N1[C@H](CCC1)C | C25H27Cl2FN6
